US06051586
EXAMPLE 124 5-Chloro-1-(4-nitro-phenyl)-1H-tetrazole
5-Chloro-1-phenyl-1H-tetrazole (500 g, 2.78 mol) was carefully added in one portion to stirred white fuming nitric acid (91.5% HNO3, 2.5 L). The internal temperature of the mixture increased steadily to 65° C. then fell. An aliquot was removed and partitioned between water and dichloromethane. TLC analysis (80:20 hexanes/ethyl acetate) indicated consumption of starting material. The mixture was carefully poured into stirred ice (3 L), water (2 L) and dichloromethane (2 L). The layers were separated and the aqueous was extracted with dichloromethane (2 L). The combined organic phase was washed with 5% aqueous sodium bicarbonate solution (1 L), dried (MgSO4), filtered, and concentrated to a solid. The solid was mixed with 90:10 hexanes/ethyl acetate (3 L) and heated to 65° C. The mixture was cooled overnight (2-5° C.). Filtration afforded a white crystalline solid (544 g, 87%). 1H NMR (CDCl3, 300 MHz) δ 8.51 (d, 9.5 Hz, 2 H), 7.91 (d, 8.8 Hz, 2 H); mp 96.5° C.; Rf =0.2 (K).

reactant | 5-Chloro-1-phenyl-1H-tetrazole | 2.78 mol, 500 g | ClC1=NN=NN1C1=CC=CC=C1 | C7H5ClN4
reactant | nitric acid | 2.5 L | [N+](=O)(O)[O-] | HNO3
product | 5-Chloro-1-(4-nitro-phenyl)-1H-tetrazole | 544 g, 87% | ClC1=NN=NN1C1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClN5O2
